US08048909B2
1-[1-(1-Benzothien-2-ylsulfonyl)-5-phenyl-1H-pyrrol-3-yl]-N-methylmethanamine hydrochloride
1-(1-Benzothien-2-ylsulfonyl)-5-phenyl-1H-pyrrole-3-carbaldehyde (180 mg) was dissolved in methanol (20 mL), 40% methylamine methanol solution (190 mg) was added at room temperature, and the mixture was stirred for 30 min. Sodium borohydride (56 mg) was added at room temperature, and the mixture was stirred for 10 min. 1 mol/L Hydrochloric acid (20 mL) was added, and the mixture was stirred for 5 min. The reaction mixture was alkalized with a saturated aqueous sodium hydrogencarbonate solution and extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (eluent: hexane-ethyl acetate=3:7→0:1), and dissolved in ethyl acetate (5 mL). A 4 mol/L hydrogen chloride-ethyl acetate solution (1 mL) was added, and the mixture was concentrated under reduced pressure. The residue was crystallized from ethyl acetate to give the title compound as colorless crystals (yield 126 mg, 61%).

reactant | 1-(1-Benzothien-2-ylsulfonyl)-5-phenyl-1H-pyrrole-3-carbaldehyde | 180 mg | S1C(=CC2=C1C=CC=C2)S(=O)(=O)N2C=C(C=C2C2=CC=CC=C2)C=O | C19H13NO3S2
reactant | methylamine methanol | 190 mg | CO.CN
reactant | Sodium borohydride | 56 mg | [BH4-].[Na+]
reactant | Hydrochloric acid | 1 mol/L, 20 mL | Cl | ClH
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methanol | 20 mL | CO | CH4O
product | 1-[1-(1-Benzothien-2-ylsulfonyl)-5-phenyl-1H-pyrrol-3-yl]-N-methylmethanamine hydrochloride | yield 126 mg, 61% | Cl.S1C(=CC2=C1C=CC=C2)S(=O)(=O)N2C=C(C=C2C2=CC=CC=C2)CNC | InChI=1S/C20H18N2O2S2.ClH/c1-21-13-15-11-18(16-7-3-2-4-8-16)22(14-15)26(23,24)20-12-17-9-5-6-10-19(17)25-20;/h2-12,14,21H,13H2,1H3;1H
